US04303656
2-(N,N-Dimethylaminomethyl)-4-(4-methylphenyl)chroman
The process of example 4 was repeated using N,N-dimethylglycine ethyl ester in place of the N,N-dimethylalanine ethyl ester in part (a), and using 4-bromotoluene in place of the 4-bromochlorobenzene in part (c) to yield the title compound, m.p. 114°-116° C.

reactant | N,N-dimethylglycine ethyl ester | C(C)OC(CN(C)C)=O | C6H13NO2
reactant | 4-bromotoluene | BrC1=CC=C(C=C1)C | C7H7Br
product | 2-(N,N-Dimethylaminomethyl)-4-(4-methylphenyl)chroman | CN(C)CC1OC2=CC=CC=C2C(C1)C1=CC=C(C=C1)C | C19H23NO
